US07098219B2
5-Amino-1-(2′,4′-difluorophenyl)-6,8-difluoro-1,4-dihydro-7-(3-aminopyrrolidine -1-yl)-4-oxo-quinoline-3-carboxylic acid
The condensation of 5-amino-1-(2′,4′-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid with 3-aminopyrrolidine was carried out in a similar manner as described in example 1, gave the titled product. Yield 71%, m.p 268° C. (d), C20H16F4N4O3, m/z 437 (M+1).

reactant | 5-amino-1-(2′,4′-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1=C(C=C(C=C1)F)F)C(=O)O)=O | C16H7F5N2O3
reactant | 3-aminopyrrolidine | NC1CNCC1 | C4H10N2
product | 5-Amino-1-(2′,4′-difluorophenyl)-6,8-difluoro-1,4-dihydro-7-(3-aminopyrrolidine -1-yl)-4-oxo-quinoline-3-carboxylic acid | Yield 71% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)N)F)C1=C(C=C(C=C1)F)F)C(=O)O)=O | C20H16F4N4O3
